** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/openDVS2x2_test_pixel.sch
.subckt pixel_test_structure_schem dac_config_7 vpd_buff vpr_buff vsf_buf vdiff_buff readOut[1] pixRst[1] pixRst[0] rowReadON[1]
+ rowReadON[0] readOut[0] rowReadOFF[1] rowReadOFF[0] dac_config_3 dac_config_5 dac_config_4 dac_config_0 vssa1 vdda1 vssc1 dac_config_1
+ dac_config_2
*.PININFO dac_config_7:B vpd_buff:B vpr_buff:B vsf_buf:B vdiff_buff:B pixRst[1:0]:B rowReadON[1:0]:B rowReadOFF[1:0]:B vssa1:B
*+ vdda1:B vssc1:B readOut[1]:O readOut[0]:O dac_config_0:B dac_config_1:B dac_config_2:B dac_config_3:B dac_config_4:B dac_config_5:B
x2 vdda1 dac_config_7 vpd[0] vpd_buff vssa1 infiniamp_xl_layout
x3 vdda1 dac_config_7 vpr[0] vpr_buff vssa1 infiniamp_xl_layout
x4 vdda1 dac_config_7 vsf[0] vsf_buf vssa1 infiniamp_xl_layout
x5 vdda1 dac_config_7 vdiff[0] vdiff_buff vssa1 infiniamp_xl_layout
xPix_test pixRst[1] pixRst[0] rowReadON[1] rowReadON[0] rowReadOFF[1] rowReadOFF[0] readLine[1] readLine[0] vdiff[3] vdiff[2]
+ vdiff[1] vdiff[0] vdda1 vssa1 vssc1 dac_config_2 dac_config_1 dac_config_0 dac_config_4 dac_config_5 dac_config_3 vsf[3] vsf[2] vsf[1]
+ vsf[0] vpr[3] vpr[2] vpr[1] vpr[0] vpd[3] vpd[2] vpd[1] vpd[0] openDVS_pixel2x2_test_pixel
XM2 readLine[0] readLine[0] vdda1 vdda1 sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1
XM1 readLine[1] readLine[1] vdda1 vdda1 sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1
x6 readLine[0] inv_readLine[0] vdda1 vdda1 vssc1 vssa1 sky130_fd_sc_hd__inv_1
x8 readLine[1] inv_readLine[1] vdda1 vdda1 vssc1 vssa1 sky130_fd_sc_hd__inv_1
x1 inv_readLine[0] readOut[0] vdda1 vdda1 vssc1 vssa1 sky130_fd_sc_hd__inv_4
x1 inv_readLine[1] readOut[1] vdda1 vdda1 vssc1 vssa1 sky130_fd_sc_hd__inv_4
.ends

* expanding   symbol:  infiniamp_xl_layout.sym # of pins=5
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/infiniamp_xl_layout.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/infiniamp_xl_layout.sch
.subckt infiniamp_xl_layout VDD VBIAS VIN VOUT GndA
*.PININFO VDD:B GndA:B VIN:I VBIAS:B VOUT:B
XMpAuxBias AUX_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 m=4
XMpSrcBias MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 L=0.4 W=1 nf=1 m=16
XMP_MSRC_VIN_M1 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_MSRC_VOUT_M1 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMnDiodeLD DIODE_LD DIODE_LD GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=2
XMnMainBias MAIN_BIAS MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=2
XMnNVin N_VIN MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=8
XMnVout VOUT MAIN_BIAS GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1 m=8
XMP_MSRC_VIN_M2 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_MSRC_VOUT_M2 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_NVIN_M2 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_VOUT_M2 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_NVIN_M1 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMP_ASRC_VOUT_M1 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt L=0.4 W=6 nf=4
XMnDiodeLD1 GndA GndA GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1
XMnDiodeLD2 GndA GndA GndA GndA sky130_fd_pr__nfet_01v8 L=0.4 W=2 nf=1
.ends


* expanding   symbol:  openDVS_pixel2x2_test_pixel.sym # of pins=17
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/openDVS_pixel2x2_test_pixel.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/openDVS_pixel2x2_test_pixel.sch
.subckt openDVS_pixel2x2_test_pixel pixRst[1] pixRst[0] rowReadON[1] rowReadON[0] rowReadOFF[1] rowReadOFF[0] readLine[1]
+ readLine[0] vdiff[3] vdiff[2] vdiff[1] vdiff[0] VddA18 GndA GndD OnBn OffBn DiffBn PrSFBp RefrBp PrBp vsf[3] vsf[2] vsf[1] vsf[0] vpr[3]
+ vpr[2] vpr[1] vpr[0] vpd[3] vpd[2] vpd[1] vpd[0]
*.PININFO PrBp:B GndA:B VddA18:B PrSFBp:B DiffBn:B OnBn:B OffBn:B RefrBp:B GndD:B vpd[3],vpd[2],vpd[1],vpd[0]:B pixRst[1:0]:I
*+ rowReadON[1:0]:I rowReadOFF[1:0]:I readLine[1:0]:B vdiff[3],vdiff[2],vdiff[1],vdiff[0]:B vsf[3],vsf[2],vsf[1],vsf[0]:B
*+ vpr[3],vpr[2],vpr[1],vpr[0]:B
xPix[3] rowReadON[1] VddA18 PrBp GndA vpd[3] rowReadOFF[1] pixRst[1] PrSFBp DiffBn OnBn OffBn RefrBp readLine[1] GndD vdiff[3]
+ vsf[3] vpr[3] openDVS_pixel_test_structure
xPix[2] rowReadON[0] VddA18 PrBp GndA vpd[2] rowReadOFF[0] pixRst[1] PrSFBp DiffBn OnBn OffBn RefrBp readLine[1] GndD vdiff[2]
+ vsf[2] vpr[2] openDVS_pixel_test_structure
xPix[1] rowReadON[1] VddA18 PrBp GndA vpd[1] rowReadOFF[1] pixRst[0] PrSFBp DiffBn OnBn OffBn RefrBp readLine[0] GndD vdiff[1]
+ vsf[1] vpr[1] openDVS_pixel_test_structure
xPix[0] rowReadON[0] VddA18 PrBp GndA vpd[0] rowReadOFF[0] pixRst[0] PrSFBp DiffBn OnBn OffBn RefrBp readLine[0] GndD vdiff[0]
+ vsf[0] vpr[0] openDVS_pixel_test_structure
.ends


* expanding   symbol:  sky130_fd_sc_hd__inv_1.sym # of pins=6
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/sky130_fd_sc_hd__inv_1.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/sky130_fd_sc_hd__inv_1.sch
.subckt sky130_fd_sc_hd__inv_1 A Y VPWR VPB VGND VNB
*.PININFO A:I Y:O VNB:B VPB:B VPWR:B VGND:B
XX0 Y A VGND VNB sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 nf=1
XX1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt L=0.15 W=1 nf=1
.ends


* expanding   symbol:  sky130_fd_sc_hd__inv_4.sym # of pins=6
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/sky130_fd_sc_hd__inv_4.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/sky130_fd_sc_hd__inv_4.sch
.subckt sky130_fd_sc_hd__inv_4 A Y VPWR VPB VGND VNB
*.PININFO A:I Y:O VNB:B VPB:B VPWR:B VGND:B
XX0 Y A VGND VNB sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 nf=4
XX1 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt L=0.15 W=1 nf=4
.ends


* expanding   symbol:  openDVS_pixel_test_structure.sym # of pins=17
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/openDVS_pixel_test_structure.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/openDVS_pixel_test_structure.sch
.subckt openDVS_pixel_test_structure rowReadON VddA18 PrBp GndA vpd rowReadOFF pixRst PrSFBp DiffBn OnBn OffBn RefrBp readLine
+ GndD vdiff vsf vpr
*.PININFO vpd:B PrBp:B GndA:B VddA18:B PrSFBp:B DiffBn:B OnBn:B OffBn:B RefrBp:B pixRst:I rowReadON:I rowReadOFF:I readLine:B
*+ GndD:B vpr:B vsf:B vdiff:B
xpr VddA18 PrBp GndA vpd vpr PixelPhotoreceptor
xsf VddA18 PrSFBp GndA vpr vsf PixelSourceFollower
xchAmp VddA18 DiffBn GndA vsf vdiff nRst PixelChangeAmplifier
xcomp VddA18 OnBn GndA vdiff ON OffBn nOFF PixelComparators
xhandshake rowReadOFF GndA rowReadON readLine ON nOFF GndD PixelHandshake
xrst rowReadON GndA pixRst nRst RefrBp VddA18 PixelResetGen
.ends


* expanding   symbol:  PixelPhotoreceptor.sym # of pins=5
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelPhotoreceptor.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelPhotoreceptor.sch
.subckt PixelPhotoreceptor VddA18 PrBp GndA vpd vpr
*.PININFO PrBp:B VddA18:B vpd:B GndA:B vpr:B
XMpd VddA18 vpr vpd GndA sky130_fd_pr__nfet_01v8 L=0.3 W=0.5 nf=1
XMpr_amp vpr vpd GndA GndA sky130_fd_pr__nfet_01v8 L=0.3 W=0.42 nf=1
XMprBias vpr PrBp VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1
DD1 GndA vpd sky130_fd_pr__model__parasitic__diode_ps2dn area=1e12 perim=4e6
.ends


* expanding   symbol:  PixelSourceFollower.sym # of pins=5
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelSourceFollower.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelSourceFollower.sch
.subckt PixelSourceFollower VddA18 PrSFBp GndA vpr vsf
*.PININFO GndA:B PrSFBp:B vpr:B vsf:B VddA18:B
XMsfBias vsf PrSFBp VddA18 VddA18 sky130_fd_pr__pfet_01v8_hvt L=1.5 W=0.42 nf=1
XMsf GndA vpr vsf VddA18 sky130_fd_pr__pfet_01v8 L=0.25 W=0.42 nf=1
.ends


* expanding   symbol:  PixelChangeAmplifier.sym # of pins=6
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelChangeAmplifier.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelChangeAmplifier.sch
.subckt PixelChangeAmplifier VddA18 DiffBn GndA vsf vdiff nRst
*.PININFO DiffBn:B vsf:B VddA18:B GndA:B vdiff:B nRst:B
XC1b vd vsf sky130_fd_pr__cap_mim_m3_1 W=6.47 L=1.505
XC2 vd vdiff sky130_fd_pr__cap_mim_m3_1 W=1 L=1
XMchAmpBias vdiff DiffBn GndA GndA sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1
XMrst vdiff nRst vd VddA18 sky130_fd_pr__pfet_01v8_hvt L=0.42 W=0.42 nf=1
XMchAmp vdiff vd VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=1.5 W=1.5 nf=1
XC1a vd vsf sky130_fd_pr__cap_mim_m3_1 W=2.27 L=3.985
.ends


* expanding   symbol:  PixelComparators.sym # of pins=7
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelComparators.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelComparators.sch
.subckt PixelComparators VddA18 OnBn GndA vdiff ON OffBn nOFF
*.PININFO OnBn:B OffBn:B VddA18:B vdiff:B GndA:B ON:B nOFF:B
XMonBias ON OnBn GndA GndA sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1
XMoffBias nOFF OffBn GndA GndA sky130_fd_pr__nfet_01v8 L=1.5 W=1.5 nf=1
XMon ON vdiff VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=1.5 W=1.5 nf=1
XMoff nOFF vdiff VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=1.5 W=1.5 nf=1
.ends


* expanding   symbol:  PixelHandshake.sym # of pins=7
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelHandshake.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelHandshake.sch
.subckt PixelHandshake rowReadOFF GndA rowReadON readLine ON nOFF GndD
*.PININFO rowReadON:I rowReadOFF:I readLine:B ON:B nOFF:B GndD:B GndA:B
XMswON readLine rowReadON readLineONpd GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XMoutON readLineONpd ON GndD GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XMswOFF readLine rowReadOFF readLineOFFpd GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XMoutOFF readLineOFFpd nOFF GndD GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
.ends


* expanding   symbol:  PixelResetGen.sym # of pins=6
** sym_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelResetGen.sym
** sch_path: /home/alienfalcon/Projects/skywater/open_dvs_py312/open_dvs/git_dvs/nic2025_openDVS/analog/xschem/PixelResetGen.sch
.subckt PixelResetGen rowRst GndA colRst nRst RefrBp VddA18
*.PININFO rowRst:I colRst:I RefrBp:B GndA:B VddA18:B nRst:B
XMPDrefrCol nRst colRst net1 GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
XMrefrBias nRst RefrBp VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=1.5 W=0.42 nf=1
XMcapRefr VddA18 nRst VddA18 VddA18 sky130_fd_pr__pfet_01v8 L=1.5 W=1.5 nf=1
XMPDRefrRow net1 rowRst GndA GndA sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1
.ends

